US07884109B2
Synthesis of N-((1R,4R)-4-(tert-butyldiphenylsilyloxy)-7-fluoro-1,2,3,4-tetrahydronaphthalen-1-yl)-2,2,2-trifluoroacetamide
2,2,2-Trifluoro-N-((1R,4R)-7-fluoro-4-hydroxy-1,2,3,4-tetrahydronaphthalen-1-yl)acetamide (2.71 g, 9.78 mmol, 1 equiv) and imidazole (1.33 g, 19.56 mmol, 2 equiv) were dissolved in anhydrous DMF (40 mL) and cooled in ice bath. Tert-Butyldiphenylsilyl chloride (3.25 mL, 12.71, 1.3 equiv) was added dropwise. The reaction solution was stirred at RT for 16 h. The DMF was removed by evaporation. The residue was dissolved in EtOAc (200 mL) and washed with water, brine and dried (Na2SO4). The organic phase was evaporated to dryness to give an oil residue, which was purified by ISCO (40 g column, EtOAc-hexane 10-50%) to give a white solid product (2.16 g, TLC: pure) and a mixture (3.0 g). 1H NMR (400 MHz, DMSO-d6) δ 9.11 (s, 1H), 7.26-7.30 (q, 1H), 7.09 (m, 1H), 6.98 (dd, 1H), 5.07-5.14 (m, 1H), 4.77-4.80 (m, 1H), 2.06-2.15 (m, 1H), 1.74-1.92 (m, 2H), 1.56-1.669 m, 1H), 1.03 (s, 9H).

reactant | 2,2,2-Trifluoro-N-((1R,4R)-7-fluoro-4-hydroxy-1,2,3,4-tetrahydronaphthalen-1-yl)acetamide | 9.78 mmol, 2.71 g, 1 equiv | FC(C(=O)N[C@@H]1CC[C@H](C2=CC=C(C=C12)F)O)(F)F | C12H11F4NO2
reactant | imidazole | 19.56 mmol, 1.33 g, 2 equiv | N1C=NC=C1 | C3H4N2
reactant | Tert-Butyldiphenylsilyl chloride | 3.25 mL, 1.3 equiv | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | N-((1R,4R)-4-(tert-butyldiphenylsilyloxy)-7-fluoro-1,2,3,4-tetrahydronaphthalen-1-yl)-2,2,2-trifluoroacetamide | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@@H]1CC[C@H](C2=CC(=CC=C12)F)NC(C(F)(F)F)=O | C28H29F4NO2Si
